US06395919B1
a) (R)-Methyl 4-(oxiranylmethoxy)-3-nitrophenylacetate
The material purchased from Aldrich, 4-hydroxy-3-nitrophenyl acetic acid, (0.500 g, 2.54 mmol) was dissolved in methanol (5 mL) and was treated with concentrated H2SO4 (0.25 mL) at reflux for 16 h. The mixture was cooled, evaporated, taken up in 5% NaHCO3 and extracted into ethyl ether. A mixture of this crude compound (0.512 g, 2.43 mmol), K2CO3 (1.0 g, 7.27 mmol) and 2R-(−)-glycidyl-3-nitrobenzenesulfonate (0.630 g, 2.43 mmol) in acetone (10 mL) was refluxed for 24 h. The mixture was cooled, concentrated and purified by flash column chromatography (50% EtOAc/Hexane) to afford the title compound (0.59 g) as an off-white foam. 1H-NMR (250 MHz, CDCl3): δ 2.84-2.93 (m, 2H), 3.37-3.450(m, 1H), 3.62 (s, 2H), 3.71 (s, 3H), 4.09-4.16 (m, 1H), 4.37-4.42 (m, 1H), 7.1-7.8 (m, 3H).

reactant | 4-hydroxy-3-nitrophenyl acetic acid | 2.54 mmol, 0.500 g | OC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H7NO5
reactant | H2SO4 | 0.25 mL | OS(=O)(=O)O | H2O4S
reactant | K2CO3 | 7.27 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | methanol | 5 mL | CO | CH4O
product | (R)-Methyl 4-(oxiranylmethoxy)-3-nitrophenylacetate | 0.59 g | O1[C@H](C1)COC1=C(C=C(C=C1)CC(=O)OC)[N+](=O)[O-] | C12H13NO6
